US07569727B2
P4.1) At 0-2° C., 4.3 g of azodicarboxylic acid diisopropyl ester are added dropwise to 5.6 g of triphenylphosphine in 100 ml of tetrahydrofuran. After 30 minutes' stirring, a solution of 6.7 g of 3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propan-1-ol and 2.9 g of 1-(4-hydroxy-phenyl)-propan-2-one in 100 ml of tetrahydrofuran is added dropwise at 0-2° C. in the course of 45 minutes. After 2 hours at from 0 to 2° C. and 6 hours at room temperature, the reaction mixture is concentrated and the residue is purified over silica gel. 1-(4-{3-[2,6-Dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-propan-2-one is obtained. 1H-NMR (CDCl3) 300 MHz: 2.16 (s, 3H), 2.30 (m, 2H), 3.63 (s, 2H), 4.17 (t, 2H), 4.27 (t, 2H), 4.58 (d, 2H), 6.11 (t, 1H), 6.83 (s, 2H), 6.90 (d, 2H), 7.11 (d, 2H)

reactant | azodicarboxylic acid diisopropyl ester | 4.3 g | C(C)(C)OC(=O)N=NC(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 5.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-[2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propan-1-ol | 6.7 g | ClC1=C(OCCCO)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C12H12Cl4O3
reactant | 1-(4-hydroxy-phenyl)-propan-2-one | 2.9 g | OC1=CC=C(C=C1)CC(C)=O | C9H10O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-(4-{3-[2,6-Dichloro-4-(3,3-dichloro-allyloxy)-phenoxy]-propoxy}-phenyl)-propan-2-one | ClC1=C(OCCCOC2=CC=C(C=C2)CC(C)=O)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C21H20Cl4O4
